US04349674
2-[(Imino(methylamino)methyl)thio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid ethyl ester (4.733 g., 0.02 mole) and 1.803 g. (0.02 mole) of monomethylthiourea were dissolved in 100 ml. of acetone and the solution as stirred at reflux for 11/2 hours, cooled, and filtered to give 5.62 g. of crude solid. Extraction of the crude solid with boiling acetonitrile left 3.14 g. of insoluble product, m.p. 180° (dec.).

reactant | 2-Chloro-3-quinoxalinecarboxylic acid ethyl ester | 0.02 mole, 4.733 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)Cl | C11H9ClN2O2
reactant | monomethylthiourea | 0.02 mole | CNC(=S)N | C2H6N2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-[(Imino(methylamino)methyl)thio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(NC)=N | InChI=1S/C13H14N4O2S.ClH/c1-3-19-12(18)10-11(20-13(14)15-2)17-9-7-5-4-6-8(9)16-10;/h4-7H,3H2,1-2H3,(H2,14,15);1H
